US05852193
4-(2-piperidinoethoxy) benzoic acid hydrochloride
Into a 50 ml round bottom flask is placed 6.40 g (33.6 mmol) of p-toluenesulfonyl chloride and 25 ml of methylene chloride. The resulting solution is cooled with an ice bath as 4.00 g (31.0 mmol) of 1-piperidinoethanol in 6 ml of methylene chloride is added dropwise. After the addition is complete, the ice bath is removed and the resulting slurry is stirred for about 12 hours. The reaction mixture is concentrated on a rotary evaporator to yield a solid residue. The solid residue is transferred to a 100 ml round bottom flask with 45 ml of amyl acetate. Potassium carbonate (6.87 g, 49.7 mmol) and methyl 4-hydroxybenzoate (2.82 g, 18.5 mmol) are added to the slurry. The resulting mixture is heated to 145° C. for 2 hours. The reaction mixture is cooled to room temperature and washed twice with water. The organic layer is extracted with 11 ml of 8N hydrochloric acid. The aqueous layer is heated at gentle reflux for 3 hours. The resulting slurry is cooled to 50° C. and 11 ml of acetone is added. The slurry is cooled to 0°-5° C. and stirred for 1 hour. The product is filtered, washed with cold acetone, and dried at 50° C. in vacuo to yield 920 mg of product, (17%). 1 H NMR. Potency 97.6%. TRS 1.16%

reactant | p-toluenesulfonyl chloride | 33.6 mmol, 6.40 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-piperidinoethanol | 31.0 mmol, 4.00 g | N1(CCCCC1)C(C)O | C7H15NO
reactant | amyl acetate | 45 ml | C(C)(=O)OCCCCC | C7H14O2
reactant | Potassium carbonate | 49.7 mmol, 6.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-hydroxybenzoate | 18.5 mmol, 2.82 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-piperidinoethoxy) benzoic acid hydrochloride | 920 mg, 17% | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H19NO3.ClH/c16-14(17)12-4-6-13(7-5-12)18-11-10-15-8-2-1-3-9-15;/h4-7H,1-3,8-11H2,(H,16,17);1H
